US07098226B2
2-(1-Adamantyl)-N-pentylethylamine hydrochloride (Intermediate No. 1-1) (0.50 g, 1.7 mmol) was added to a solution of diglycolyl chloride (0.31 ml, 2.6 mmol) and triethylamine (0.70 ml, 5.1 mmol) in anhydrous dichloromethane (6 ml) under ice-cooling, and the mixture was stirred at room temperature overnight. Methanol (5 ml) was added to the reaction mixture, and the whole was stirred for three hours. The solvent was evaporated under reduced pressure, the residue was distributed with ethyl acetate and water (15 ml respectively), and the organic layer was washed with a saturated aqueous sodium chloride solution (5 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the resulting residue was purified by silica gel column chromatography to give 0.39 g (60%) of 2-methoxycarbonylmethoxyacetic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide as an oily matter.

reactant | 2-(1-Adamantyl)-N-pentylethylamine hydrochloride | 1.7 mmol, 0.50 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCNCCCCC
reactant | diglycolyl chloride | 2.6 mmol, 0.31 ml | C(COCC(=O)Cl)(=O)Cl | C4H4Cl2O3
reactant | triethylamine | 5.1 mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | Methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 2-methoxycarbonylmethoxyacetic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide | 0.39 g, 60% | C12(CC3CC(CC(C1)C3)C2)CCN(C(COCC(=O)OC)=O)CCCCC | C22H37NO4
